US04072688
Preparation of 2-(2',6'-dichlorophenyl)3-chloroacetyl thiazolidine.
Twenty-three and five tenths ml. of a benzene solution containing 5.9 g. of 2(2',6'-dichlorophenyl) thiazolidine was combined with 25 ml. of benzene and 2.8 g. of chloroacetyl chloride and the mixture stirred in an ice bath, while 2.6 g. of triethylamine was added dropwise. After standing for about 30 minutes the mixture was washed with water, separated, dried over magnesium sulfate and the benzene stripped off under vacuum. There was obtained a yield of 8 g. of an oil, the title compound, ND30 = 1.6041.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2(2',6'-dichlorophenyl) thiazolidine | ClC1=C(C(=CC=C1)Cl)C1SCCN1 | C9H9Cl2NS
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2',6'-dichlorophenyl)3-chloroacetyl thiazolidine | ClC1=C(C(=CC=C1)Cl)C1SCCN1C(CCl)=O | C11H10Cl3NOS
